US05723483
Methyl 4-(2,6-dimethoxyphenyl)-4-oxido-2-oxo-3-butenoate sodium salt: Compound A.
A solution of 100 g of 2,6-dimethoxyacetophenone and 7.5 ml of ethyl oxalate in 520 ml of anhydrous MeOH is added slowly to a solution of sodium methylate prepared from 12.7 g of sodium and 285 ml of anhydrous MeOH. The reaction mixture is heated to reflux for 7 hours and left overnight at RT. It is poured into 2 litres of isopropyl ether and left stirring for 15 minutes. The expected product is obtained by filtration, washing with isopropyl ether and drying under vacuum, m=120 g, m.p.=178° C.

reactant | 2,6-dimethoxyacetophenone | 100 g | CC(=O)C1=C(C=CC=C1OC)OC | C10H12O3
reactant | ethyl oxalate | 7.5 ml | C(C(=O)[O-])(=O)OCC
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 12.7 g | [Na] | Na
reactant | isopropyl ether | 2 litres | C(C)(C)OC(C)C | C6H14O
solvent | MeOH | 520 ml | CO | CH4O
solvent | MeOH | 285 ml | CO | CH4O
product | Methyl 4-(2,6-dimethoxyphenyl)-4-oxido-2-oxo-3-butenoate sodium salt | [Na+].COC1=C(C(=CC=C1)OC)C(=CC(C(=O)OC)=O)[O-] | InChI=1S/C13H14O6.Na/c1-17-10-5-4-6-11(18-2)12(10)8(14)7-9(15)13(16)19-3;/h4-7,14H,1-3H3;/q;+1/p-1
